US04714492
3.75 gms of 1-methyl-2,6-diphenyl-4-oxonicotinic acid was dissolved in 40 mls of methanol. The pH was adjusted to 12 with the addition of aqueous NaOH. A methanolic solution of bromine (2.95 gms Br2 in 50 mls methanol) was added. Additional NaOH was added as required to maintain a basic medium. Removal of the solvent yielded a semi-solid that was taken up in 100 mls of water. Water insoluble material was removed by filtration. Acidification of the aqueous solution provided 3.0 gms of 5-bromo-1-methyl-2,6-diphenyl-4-oxonicotinic acid (mp 242°-3°, with decomposition) as a white solid.

reactant | 1-methyl-2,6-diphenyl-4-oxonicotinic acid | 3.75 gms | CN1C(=C(C(=O)O)C(C=C1C1=CC=CC=C1)=O)C1=CC=CC=C1 | C19H15NO3
reactant | NaOH | [OH-].[Na+]
reactant | bromine | 50 mls, 2.95 gms | BrBr | Br2
solvent | methanol | 40 mls | CO | CH4O
solvent | water | 100 mls | O | H2O
product | 5-bromo-1-methyl-2,6-diphenyl-4-oxonicotinic acid | 3.0 gms | BrC1=C(N(C(=C(C(=O)O)C1=O)C1=CC=CC=C1)C)C1=CC=CC=C1 | C19H14BrNO3
